US05559141
b) 1-benzyl-5-(1-oxo-4-phenylbutyl)-1H-imidazole
The mixture of 27,5 g of 1-benzyl-5-(1-hydroxy-4-phenylbutyl)-1H-imidazole and 34,4 g of manganese dioxide in 550 ml of tetrachloroethylene is refluxed stirring for four hours. The reaction mixture is filtered and the filtrate is evaporated to dryness. The product is crystallized from ethyl acetate as hydrochloride salt.

reactant | 1-benzyl-5-(1-hydroxy-4-phenylbutyl)-1H-imidazole | 27,5 g | C(C1=CC=CC=C1)N1C=NC=C1C(CCCC1=CC=CC=C1)O | C20H22N2O
solvent | tetrachloroethylene | 550 ml | ClC(=C(Cl)Cl)Cl | C2Cl4
catalyst | manganese dioxide | 34,4 g | [O-2].[O-2].[Mn+4]
product | 1-benzyl-5-(1-oxo-4-phenylbutyl)-1H-imidazole | C(C1=CC=CC=C1)N1C=NC=C1C(CCCC1=CC=CC=C1)=O | C20H20N2O
